### PR TITLE
feat(OptimizationConstants): irrationality exp of pi and $Gamma 1/4$

### PR DESCRIPTION
**Pull request by felixpernegger**
from https://teorth.github.io/optimizationproblems/constants/7a.html and https://teorth.github.io/optimizationproblems/constants/7b.html

I am quite happy with this format. When this gets merged, I can quickly add many constants (I believe) and then probably make the OptimizationProblems link to formal conjectures (this was discussed on zulip months ago, but not worked on since)

About the format I have decided on:

- Each file should have the title same as those in PR #5340
- Each constant CXY, again like in #5340. If existence of constant unclear; we can occassionally cheat with ENNReal, ENat etc, but let's not have a general rule for this.
- Naming of bounds again as in #5340 and #5537
- We include both upper and lower bounds and follow the following system: Add the first known upper/lower bound; at most two intermediate bounds (espp ones introducing new methods etc) (though exceptions are poossible) as well as the best known upper/lower bound. As well as a research open for upper/lower if it can improved, by taking the best known bound and increasing it slightly (see more next bullet point). If there are separate conjectures (like for C14), they ought to be included as well
- One major problem is the question of rounding. Any proving of as research open sorry should translate to a genuine mathematical improvement  and not just "calculating more digits". Similarly, no proving of sorry of a research solved, should require mathematical optimizitation. Thus we apply following rules:
1. If the domain is "discrete" in some way (in particular, Nat and Int), there are no big issues and we can proceed as in #5537. I.e. simply state the known bounds exactly, and make research open one "the next best one", preferably with < (esp if the best known bound is of form \le)$. This applies if the optimization constant is real or whatever, but best known bounds are integers. In this case, if the best known lower bound is say \sqrt2, the research open question should ask if the constant is > \sqrt 2 etc.
2. "Explicit short forms" which are (reasonably) computable if available are always prefered. I.e. \sqrt(5), e, \Gamma(1/2) or combinations there of are always better than digit expansion.
3. Known bounds are to be rounded in a way that *does not strengthen* the mathematical statement. I.e. if the constant is listed as \le 2.434564245 (and there is no reason why the digits should stop here), we write it in Lean as 2.434564245. This makes the statement very slightly weaker but ensures the formalisation can stay consistent with the known math. Generally, round up/down "late", usually at the last known digit. If there are more than 10 digits (behind the comma) are listed, round at the 10th decimal digit (unless the distance to the other known bound is less than that). Since the cited bounds themselves could be rounded, if there are significantly many digits (say >3 or better >5 digits behind the comma and improvements are historically bigger than 10^-5), in some cases one can round up / down "one more", like in #5340 for the upper bound of 7b. This is not always a good idea, but sometimes a bit safer
4. For research open improvements (again, that are not discrete in some way or another), we do rounding in the opposite direction. I.e. if the best known lower bound is listed as  2.434564245, the research open bound should ask if it it is greater than  2.434564246 (mirrored for upper bounds).

### CODE REVIEW

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+  [arXiv:1912.06345](https://arxiv.org/abs/1912.06345)
+-/
+
+namespace Constant7a
+
+open Real ENNReal Set NNReal
+
+/-- The irrationality exponent of a real number. -/
+noncomputable def irrationalityExponent : ℝ → ℝ≥0∞ :=
+  fun x ↦ sSup ((↑) '' {p : ℝ≥0 | LiouvilleWith p x})
```
Comment (felixpernegger) [inline FormalConjectures/OptimizationConstants/7a.lean]: This def is useful for these conjectures, but probably maybe not too much for mathlib I believe (mathlib has many results in this area, but they are all stated with `LiouvilleWith`)

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+  $7.103205334137\ldots$*. Moscow J. Comb. Number Theory **9** (2020), 407–419.
+  [arXiv:1912.06345](https://arxiv.org/abs/1912.06345)
+-/
+
+namespace Constant7a
+
+open Real ENNReal Set NNReal
+
+/-- The irrationality exponent of a real number. -/
+noncomputable def irrationalityExponent : ℝ → ℝ≥0∞ :=
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7a.lean]: `(x : ℝ) : ℝ≥0∞ :=` rather than `fun`, and the docstring could state the definition. Should move to `FormalConjecturesForMathlib` (see main comment).

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+  fun x ↦ sSup ((↑) '' {p : ℝ≥0 | LiouvilleWith p x})
+
+/-- The irrationality exponent of a rational number is one. -/
+@[category textbook, AMS 11]
+theorem irrationalityExponent_of_rational (x : ℚ) : irrationalityExponent x = 1 := by
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7a.lean]: `irrationalityExponent_ratCast`; `category API` seems more apt.

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+      rw [coe_add, ENNReal.coe_one, coe_toNNReal zy.ne]
+      exact lt_add_right zy.ne one_ne_zero
+    obtain ⟨a, za, ay⟩ := DenselyOrdered.dense z y zy
+    refine ⟨a.toNNReal, ?_, ?_⟩
+    · apply h
+      rwa [ENNReal.coe_toNNReal (by grind)]
+    · rwa [ENNReal.coe_toNNReal (by grind)]
+
+@[category API, AMS 11]
+theorem irrationalityExponent_top_iff (x : ℝ) : irrationalityExponent x  = ⊤ ↔ Liouville x := by
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7a.lean]: `irrationalityExponent_eq_top_iff`; double space before `= ⊤`.

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 5]
```diff
@@ -0,0 +1,137 @@
...
+/-- The first known upper bound, proved by Mahler in [M1953]. This was the first proof that
+$C_{7a}$ is finite, or equivalently that $\pi$ is not a Liouville number. -/
+@[category research solved, AMS 11]
+theorem c7a_le_42 : C7a ≤ 42 := by
+  sorry
+
+/-- An intermediate upper bound proved by Rhin and Viola in [RV1993]. It follows from an effective
+irrationality measure for $\zeta(2) = \pi^2 / 6$. -/
+@[category research solved, AMS 11]
+theorem c7a_lt_14_797075 : C7a < 14.797075 := by
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7a.lean:124]: Rhin–Viola prove that `7.398537` is an irrationality measure of `ζ(2)`, so this is exactly `14.797074` (as on Tao's page):
```suggestion
theorem c7a_le_14_797074 : C7a ≤ 14.797074 := by
```

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+  sorry
+
+/-- The current best known upper bound, proved by Zeilberger and Zudilin in [ZZ2020]. -/
+@[category research solved, AMS 11]
+theorem c7a_upper_bound : C7a < 7.103205334138 := by
+  sorry
+
+/-- Can the current best upper bound be improved? -/
+@[category research open, AMS 11]
+theorem c7a_upper_bound_improved : answer(sorry) ↔ C7a < 7.103205334136 := by
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7a.lean]: Arbitrary threshold: `C7a ≤ 7.1032053341365` would be an improvement but wouldn't settle this. See main comment.

File: FormalConjectures/OptimizationConstants/7b.lean [hunk 7]
```diff
@@ -0,0 +1,63 @@
...
+
+open ENNReal
+
+/-- **Tao's Optimization Constant 7b / The irrationality measure of $\Gamma(1/4)$**. -/
+noncomputable def C7b : ℝ≥0∞ :=
+  Constant7a.irrationalityExponent (Real.Gamma (1 / 4))
+
+/-- The first and current best known lower bound, given by Dirichlet's theorem [D1842]. It applies
+because $\Gamma(1/4)$ is irrational. -/
+@[category textbook, AMS 11 33]
```
Comment (Deicyde) [inline FormalConjectures/OptimizationConstants/7b.lean]: `textbook` isn't right: this needs `Irrational (Real.Gamma (1 / 4))`, which is Chudnovsky (1976). Suggest stating it separately, as with `irrational_pi` in 7a:
```lean
/-- `Γ(1/4)` is irrational: `π` and `Γ(1/4)` are algebraically independent [C1976]. -/
@[category research solved, AMS 11 33]
theorem irrational_gamma_one_div_four : Irrational (Real.Gamma (1 / 4)) := by
  sorry

@[category research solved, AMS 11 33]
theorem c7b_lower_bound : 2 ≤ C7b := two_le_irrationalityExponent irrational_gamma_one_div_four
```
[C1976] Chudnovsky, G. V., *Algebraic independence of constants connected with the exponential and the elliptic functions*, Dokl. Akad. Nauk Ukrain. SSR Ser. A 1976, no. 8, 698–701.

**Review by Deicyde — CHANGES_REQUESTED** [review]
Thanks! Two changes requested, the rest are nits.

1. `irrationalityExponent` and its API belong in `FormalConjecturesForMathlib` (CONTRIBUTING.md steps 5–6); right now `7b` imports `7a` just for the definition. `two_le_irrationalityExponent` then needs a proof; one that compiles against this PR's Mathlib is below.
2. `c7b_lower_bound` is not `textbook`: irrationality of `Γ(1/4)` is Chudnovsky's theorem (1976). See inline.

The "can the bound be improved?" statements use arbitrary thresholds and differ from `1a.lean`. Since this is meant as a template, I'd rather settle on `C7a = answer(sorry)` (plus the conjecture `C7a = 2`) now.

The definition and all cited bounds check out against the sources.

<details><summary>Proof of <code>two_le_irrationalityExponent</code></summary>

```lean
open Set

/-- **Dirichlet's approximation theorem** in the language of `LiouvilleWith`:
every irrational number is `LiouvilleWith 2`. -/
theorem Irrational.liouvilleWith_two {x : ℝ} (hx : Irrational x) : LiouvilleWith 2 x := by
  refine ⟨1, Filter.frequently_atTop.2 fun N ↦ ?_⟩
  set S := {q : ℚ | |x - q| < 1 / (q.den : ℝ) ^ 2} with hS
  have hinf : S.Infinite := (Real.infinite_rat_abs_sub_lt_one_div_den_sq_iff_irrational x).2 hx
  -- some good approximation has denominator at least `N`
  obtain ⟨q, hq, hN⟩ : ∃ q ∈ S, N ≤ q.den := by
    by_contra! H
    refine hinf ?_
    have hinj : Set.InjOn (fun q : ℚ ↦ (q.num, q.den)) S := fun a _ b _ hab ↦
      Rat.ext (Prod.mk.inj hab).1 (Prod.mk.inj hab).2
    refine Set.Finite.of_finite_image
      (((finite_Icc (-⌈(|x| + 1) * N⌉) ⌈(|x| + 1) * N⌉).prod (finite_Iio N)).subset ?_) hinj
    rintro _ ⟨q, hq, rfl⟩
    have hden : (q.den : ℝ) < N := by exact_mod_cast H q hq
    have hden0 : (0 : ℝ) < q.den := by exact_mod_cast q.pos
    have h1 : |x - q| < 1 := hq.trans_le <| by
      rw [div_le_one (by positivity)]
      exact one_le_pow₀ (Nat.one_le_cast.2 q.pos)
    have hq1 : |(q : ℝ)| < |x| + 1 := by
      have := abs_sub_abs_le_abs_sub (q : ℝ) x
      rw [abs_sub_comm] at this
      linarith
    have hnum : |(q.num : ℝ)| ≤ (|x| + 1) * N := by
      have : (q.num : ℝ) = q * q.den := by exact_mod_cast (Rat.mul_den_eq_num q).symm
      rw [this, abs_mul, abs_of_pos hden0]
      exact mul_le_mul hq1.le hden.le hden0.le (by positivity)
    refine ⟨?_, H q hq⟩
    rw [mem_Icc, ← abs_le]
    exact_mod_cast hnum.trans (Int.le_ceil _)
  refine ⟨q.den, hN, q.num, ?_, ?_⟩
  · rw [← Rat.cast_def]
    exact hx.ne_rat q
  · rw [← Rat.cast_def, Real.rpow_two]
    exact hq

theorem two_le_irrationalityExponent {x : ℝ} (hx : Irrational x) :
    2 ≤ irrationalityExponent x :=
  le_sSup ⟨2, by simpa using hx.liouvilleWith_two, by simp⟩
```
</details>

**Comment by felixpernegger** [comment]
thanks claude <3

File: FormalConjectures/OptimizationConstants/7a.lean (hunk 2 above)
Comment (felixpernegger) [reply FormalConjectures/OptimizationConstants/7a.lean]: sure, but it should not move to formathlib for reasons otulined in another comment

File: FormalConjectures/OptimizationConstants/7a.lean (hunk 5 above)
Comment (felixpernegger) [reply FormalConjectures/OptimizationConstants/7a.lean:124]: this is intentional as described in the pr description. Applying the suggestion would make any formalisation not faithful likely

File: FormalConjectures/OptimizationConstants/7a.lean (hunk 6 above)
Comment (felixpernegger) [reply FormalConjectures/OptimizationConstants/7a.lean]: again, see PR description

**Comment by felixpernegger** [comment]
@Deicyde (just send this Claude:) I applied all suggestions and added signifcant explanation about the format in the PR description.

probably the proof of `two_le_irrationalityExponent` should rather be in mathlib directly and is not really needed here

File: FormalConjectures/OptimizationConstants/7a.lean [hunk 8]
```diff
@@ -0,0 +1,137 @@
...
+  sorry
+
+/-- The current best known upper bound, proved by Zeilberger and Zudilin in [ZZ2020]. -/
+@[category research solved, AMS 11]
+theorem c7a_upper_bound : C7a < 7.103205334138 := by
+  sorry
+
+/-- Can the current best upper bound be improved? -/
+@[category research open, AMS 11]
+theorem c7a_upper_bound_improved : answer(sorry) ↔ C7a < 7.103205334137 := by
```
Comment (felixpernegger) [inline FormalConjectures/OptimizationConstants/7a.lean]:
```suggestion
theorem c7a_upper_bound_improved : answer(sorry) ↔ C7a < 7.103205334136 := by
```
